US09422282B2
Synthesis of 5-Benzyloxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid tert-butyl ester
Using a procedure described in U.S. Patent Publication No. 2005/0090668, a solution of 5-benzyloxy-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid tert-butyl ester was first treated with NaH (1.3 equiv.) in DMF followed by the addition of dimethylsulfate (1.3 equiv.) to give mainly the desired product after 2 h at room temperature. The reaction mixture was quenched with cold HCl (1N, 30 vol.) and extracted with EtOAc (3×30 vol.). The combined organic extracts were washed with dilute HCl and brine, dried and concentrated to an oil. Chromatography of the crude product (eluted with 40-60% EtOAc/hexane) gave 88% yield of the N-methylated compound (Synthon A).

reactant | 5-benzyloxy-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1N=CNC(C1OCC1=CC=CC=C1)=O | C16H18N2O4
reactant | NaH | 1.3 equiv. | [H-].[Na+]
reactant | dimethylsulfate | 1.3 equiv. | COS(=O)(=O)OC | C2H6O4S
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Benzyloxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1N=CN(C(C1OCC1=CC=CC=C1)=O)C | C17H20N2O4
